US05594006
Preparation of O-nitrophenyl-L-alanine
To N-acetyl-O-nitrophenyl-DL-alanine (324 g, 1.28 mol), aqueous solution (1.8 liters) of 1N sodium hydroxide was added to dissolved, and acylase (9.0 g) and cobalt (II) chloride hexahydrate (100 mg) were sequentially added, and the mixture was stirred for 2 days at 37° C. After filtering the insoluble matter, the filtrate was evaporated in vacuo, and precipitating crystals were filtered and washed with a small amount of water, and the captioned compound (99.6 g, 37%) was obtained.

reactant | N-acetyl-O-nitrophenyl-DL-alanine | 1.28 mol, 324 g | C(C)(=O)N(C(C)C(=O)O[N+](=O)[O-])C1=CC=CC=C1 | C11H12N2O5
catalyst | cobalt (II) chloride hexahydrate | 100 mg | O.O.O.O.O.O.[Co](Cl)Cl
solvent | sodium hydroxide | 1N, 1.8 liters | [OH-].[Na+]
product | O-nitrophenyl-L-alanine | 99.6 g, 37% | [N+](=O)([O-])OC([C@@H](NC1=CC=CC=C1)C)=O | C9H10N2O4
